US08686048B2
Intermediate 18: 3,5-difluoro-3′-isopropoxybiphenyl-4-amine
The title compound (0.34 g) was prepared from 4-Bromo-2,6-difluoro aniline (0.5 g, 2.4 mmol) and 3-isopropoxyphenylboronic acid (0.337 g, 3.1 mmol) as a red liquid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.30-7.22 (m, 3H), 7.16-7.07 (m, 2H), 6.89 (dd, J 2.3, 8.1, 1H), 5.32 (s, 2H), 4.68 (septet, J 6, 1H), 1.26 (d, J 6, 6H).

reactant | 4-Bromo-2,6-difluoro aniline | 2.4 mmol, 0.5 g | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
reactant | 3-isopropoxyphenylboronic acid | 3.1 mmol, 0.337 g | C(C)(C)OC=1C=C(C=CC1)B(O)O | C9H13BO3
product | 3,5-difluoro-3′-isopropoxybiphenyl-4-amine | 0.34 g | FC=1C=C(C=C(C1N)F)C1=CC(=CC=C1)OC(C)C | C15H15F2NO
